2148-06-01 10:57:00 Physician Attending Progress Note
Chief Complaint: pna
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80M with tbm,  recurrent pna, started with new [**Location (un) **] button for
   suctioning, that had to be changed to t-piece, now much improved with
   abx and copd tx:
   24 Hour Events:
 BRONCHOSCOPY - At [**2148-5-31**] 10:00 AM
 PICC LINE - START [**2148-5-31**] 12:17 PM
 BRONCHOSCOPY - At [**2148-5-31**] 02:39 PM
 OR SENT - At [**2148-5-31**] 04:35 PM
   for [**Location (un) 6045**] cannula re-insertion
 OR RECEIVED - At [**2148-5-31**] 06:29 PM
   This morning feels much better.
   No new events overnight.
   History obtained from Patient
   Allergies:
   Opioid Analgesics
   Confusion/Delir
   Sulfa (Sulfonamides)
   Unknown;
   Tetanus
   Unknown;
   Benzodiazepines
   Confusion/Delir
   Last dose of Antibiotics:
   Levofloxacin - [**2148-5-31**] 02:41 PM
   Vancomycin - [**2148-5-31**] 08:00 PM
   Meropenem - [**2148-6-1**] 06:37 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-6-1**] 08:00 AM
   Other medications:
   mycon powder, pred, [**Last Name (LF) 6447**], [**First Name3 (LF) **], cinemet, meropenem, fa, lido patch
   (delined), trifluor eye, docusate, atrorv, venolfax, dilt, prilosec,
   vanco 1q24, atrovent q6, [**Last Name (un) 6272**] prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Ear, Nose, Throat: No(t) Dry mouth
   Respiratory: No(t) Cough, Dyspnea, sore throat
   Flowsheet Data as of  [**2148-6-1**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 90 (65 - 90) bpm
   BP: 158/78(99) {137/57(83) - 163/100(109)} mmHg
   RR: 22 (16 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,197 mL
                                                                  1,867 mL
   PO:
                                                                    120 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  1,727 mL
                                                                  1,267 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,500 mL
                                                                    450 mL
   Urine:
                                                                  1,500 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    697 mL
                                                                  1,417 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), regular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : mild expiratory)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender:
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   233 K/uL
   120 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.1 mEq/L
   23 mg/dL
   105 mEq/L
   140 mEq/L
   30.1 %
   12.4 K/uL
        [image002.jpg]
                             [**2148-5-28**]  11:02 AM
                             [**2148-5-28**]  03:23 PM
                             [**2148-5-29**]  04:15 AM
                             [**2148-5-29**]  09:43 AM
                             [**2148-5-30**]  02:37 AM
                             [**2148-5-31**]  04:52 AM
                             [**2148-6-1**]  05:42 AM
   WBC
   8.6
   16.9
   17.0
   12.4
   Hct
   30.9
   27.7
   28.1
   30.1
   Plt
   [**Telephone/Fax (3) 6448**]33
   Cr
   1.5
   1.4
   1.4
   1.2
   1.0
   TropT
   0.03
   0.01
   TCO2
   26
   25
   Glucose
   95
   146
   154
   154
   120
   Other labs: PT / PTT / INR:14.4/25.1/1.3, CK / CKMB /
   Troponin-T:95/5/0.01, Differential-Neuts:89.8 %, Lymph:6.0 %, Mono:4.1
   %, Eos:0.1 %, Lactic Acid:0.7 mmol/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.5 mg/dL
   Imaging: cxr: improved R opacity
   Microbiology: no new
   Assessment and Plan
 PNEUMONIA, [**Hospital 2293**] HOSPITAL ACQUIRED (NON-VAP)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERTENSION, BENIGN
 PARKINSON'S DISEASE
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
   88M with health-care associated pna and copd exacerbation, likely
   aspiration, now much improved:
   pna
   -cont meropenem
   copd
   -nebs
   -prednisone taper
   possible skin infection on neck
   -vanco
   pvd
   -restart coumadin when ok by IP
   -cont [**Hospital **]
   arf:
   -resolved
   ICU Care
   Nutrition:
   Comments: diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2148-5-31**] 12:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes